US07902181B2
d) (S)-N-((S)-1-Cyano-2-(4-(6-cyanopyridin-3-yl)phenyl)ethyl)piperidine-2-carboxamide
(S)-tert-Butyl 2-((S)-1-cyano-2-(4-(6-cyanopyridin-3-yl)phenyl)ethylcarbamoyl)-piperidine-1-carboxylate (0.074 g) in formic acid (3 mL) was heated at 50° C. for 10 min. The mixture was evaporated, dissolved in methanol and applied to a 10 g SCX column. The column was washed with methanol then eluted with 10% ammonia in methanol. The eluate was evaporated. The residue was triturated with isopropanol and the solid collected, washed with a little isopropanol and diethyl ether then dried to leave the title compound as a solid (0.048 g).

reactant | (S)-tert-Butyl 2-((S)-1-cyano-2-(4-(6-cyanopyridin-3-yl)phenyl)ethylcarbamoyl)-piperidine-1-carboxylate | 0.074 g | C(#N)[C@H](CC1=CC=C(C=C1)C=1C=NC(=CC1)C#N)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C26H29N5O3
solvent | formic acid | 3 mL | C(=O)O | CH2O2
product | (S)-N-((S)-1-Cyano-2-(4-(6-cyanopyridin-3-yl)phenyl)ethyl)piperidine-2-carboxamide | 0.048 g | C(#N)[C@H](CC1=CC=C(C=C1)C=1C=NC(=CC1)C#N)NC(=O)[C@H]1NCCCC1 | C21H21N5O
